US04330549
By the reaction of 7-(3-bromopropoxy)-3,4-dimethylcoumarin with 4-oximino-piperidine hydrochloride in dioxane solution in the presence of a Hunig base, there is obtained 3,4-dimethyl-7-[3-(4-oximino-piperidino)-propoxy]-coumarin (m.p. 198°-200° C.), from which, by catalytic hydrogenation over Raney nickel in ammoniacal methanol, there is obtained 7-[3-(4-amino-piperidino)-propoxy]-3,4-dimethyl-coumarin; m.p. 92°-94° C.

reactant | 7-(3-bromopropoxy)-3,4-dimethylcoumarin | BrCCCOC1=CC=C2C(=C(C(OC2=C1)=O)C)C | C14H15BrO3
reactant | 4-oximino-piperidine hydrochloride | Cl.N(O)=C1CCNCC1
reactant | Hunig base | CCN(C(C)C)C(C)C | C8H19N
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 3,4-dimethyl-7-[3-(4-oximino-piperidino)-propoxy]-coumarin | CC=1C(OC2=CC(=CC=C2C1C)OCCCN1CCC(CC1)=NO)=O | C19H24N2O4
